US03976672
An 80 ml, two-necked, pyrex glass Schlenk reaction tube containing a Teflon coated magnetic stir bar was swept thoroughly with nitrogen and maintained in an air-free condition. The tube was charged with 9.5 g (42.5 mmoles) of 4-t-butylphenyl vinyl sulfone, 7.0 g (42.5 mmoles) of trimethyltin hydride and 10 ml. of toluene, stoppered, and placed in a 20°C water bath. The tube was irradiated for 35 hours by a 100 watt mercury vapor lamp which was situated in a large test tube and placed in the same bath 5-10 cm. from the reaction tube. Solvent was stripped off at reduced pressure on a rotary evaporator. Recrystallization of the solid product from cyclohexane gave 11.4 g of 2-(4-t-butylphenylsulfonyl)ethyltrimethylstannane, m.p. 118°-120°C. The presence of both the sulfonyl and trimethyltin groups was indicated by the strong infrared absorption bands at 1310 cm-1, 1262 cm-1, 1145 cm-1 (--SO2 --) and 770 cm-1 ((CH3)3Sn) using a KBr disc. Nuclear magnetic resonance spectroscopy (NMR) showed the following:

reactant | 4-t-butylphenyl vinyl sulfone | 42.5 mmoles, 9.5 g | C(=C)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C12H16O2S
reactant | trimethyltin hydride | 42.5 mmoles, 7.0 g | C[SnH](C)C
catalyst | mercury | [Hg] | Hg
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(4-t-butylphenylsulfonyl)ethyltrimethylstannane | 11.4 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)CC[Sn](C)(C)C | InChI=1S/C12H17O2S.3CH3.Sn/c1-5-15(13,14)11-8-6-10(7-9-11)12(2,3)4;;;;/h6-9H,1,5H2,2-4H3;3*1H3;
